US05422353
8.2 g (0.054 mol) of 4-[(ethylthio)methyl]pyridine are dissolved in 60 ml of acetonitrile and then 9.1 g of methyliodide are added. After 12 hours the reaction mixture is evaporated down in vacuo. The residue is reacted analogously to Example 1 b) with sodium borohydride in methanol and worked up. The crude product obtained is distilled (5.2 g; 56.3% of theory; b.p. 118°-120° C./20 mbar) and then chromatographed on neutral aluminium oxide using chloroform as eluant. 4.4 g of 4-[(ethylthio)methyl]-1-methyl-1,2,3,6-tetrahydropyridine are obtained, which is converted with one equivalent of maleic acid into the maleate (m.p. 102°-105° C., from ethyl acetate).

reactant | 4-[(ethylthio)methyl]pyridine | 0.054 mol, 8.2 g | C(C)SCC1=CC=NC=C1 | C8H11NS
reactant | methyliodide | 9.1 g | CI | CH3I
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 4-[(ethylthio)methyl]-1-methyl-1,2,3,6-tetrahydropyridine | 4.4 g | C(C)SCC=1CCN(CC1)C | C9H17NS
